US05233052
Preparation of 2,4-Bis(p-chlorophenyl)-3-bromo-5-cyanopyrrole
Bromination of 2,4-bis(p-chlorophenyl)-5-cyanopyrrole is accomplished by treatment with 1 equivalent of bromine in acetic acid in the presence of anhdyrous sodium acetate yields the desired product (0.47 g, yellow solid, 44% yield, mp 98°-100° C.

reactant | 2,4-bis(p-chlorophenyl)-5-cyanopyrrole | ClC1=CC=C(C=C1)C=1NC(=C(C1)C1=CC=C(C=C1)Cl)C#N | C17H10Cl2N2
reactant | bromine | 1 equivalent | BrBr | Br2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-Bis(p-chlorophenyl)-3-bromo-5-cyanopyrrole | 44% yield | ClC1=CC=C(C=C1)C=1NC(=C(C1Br)C1=CC=C(C=C1)Cl)C#N | C17H9BrCl2N2
